US06583089B1
2-Allyl-6-chlorobenzaldehyde oxime
5.58 g of sodium bicarbonate were added to a solution of 4.62 g of hydroxylamine hydrochloride in 50 ml of water, and the mixture was cooled to 0° C. A solution of 9.7 g (44.32 mmol) of 2-allyl-6-chlorobenzaldehyde in 50 ml of methanol was added, and the mixture was stirred at room temperature overnight. The methanol was subsequently removed under reduced pressure and the residue was added with stirring to 300 ml of water. The aqueous phase was extracted with diethyl ether, the combined organic phases were washed with saturated ammonium chloride solution and dried and the solvent was removed. This gave 8.7 g (quantitative) of 2-allyl-6-chlorobenzaldehyde oxime in the form of a viscous oil.

reactant | sodium bicarbonate | 5.58 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 4.62 g | Cl.NO
reactant | 2-allyl-6-chlorobenzaldehyde | 44.32 mmol, 9.7 g | C(C=C)C1=C(C=O)C(=CC=C1)Cl | C10H9ClO
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-Allyl-6-chlorobenzaldehyde oxime | C(C=C)C1=C(C=NO)C(=CC=C1)Cl | C10H10ClNO
